US07915270B2
Methyl 2-(2-(7-phenylheptanoyl)oxazol-5-yl)benzoate
Methyl 2-(2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzoate. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (166 mg, 0.251 mmol) and methyl 2-iodobenzoate following General Procedure A. Flash chromatography (2-20% EtOAc/hexanes) yielded the title compound as a clear oil (125 mg, 99%): 1H NMR (CDCl3, 400 MHz) δ 7.75 (d, 1H, J=7.6 Hz), 7.62 (d, 1H, J=8.0 Hz), 7.53 (t, 1H, J=7.6 Hz), 7.41 (t, 1H, J=7.6 Hz), 7.28-7.24 (m, 3H), 7.17-7.15 (m, 3H), 4.83 (t, 1H, J=6.8 Hz), 3.85 (s, 3H), 2.60 (t, 2H, J=7.4 Hz), 1.92-1.90 (m, 2H), 1.64-1.60 (m, 2H), 1.38-1.33 (m, 6H), 0.90 (s, 9H), 0.11 (s, 3H), 0.00 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 173.5, 170.3, 154.6, 147.9, 136.5, 135.1, 135.0, 134.9, 133.7, 133.5, 133.4, 132.3, 130.7, 129.8, 73.8, 57.6, 41.6, 41.1, 36.6, 34.3, 34.3, 30.9, 30.1, 23.4, 0.2, 0.0.

reactant | Methyl 2-(2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzoate | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=C(C(=O)OC)C=CC=C1 | C30H41NO4Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.251 mmol, 166 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | methyl 2-iodobenzoate | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
product | Methyl 2-(2-(7-phenylheptanoyl)oxazol-5-yl)benzoate | 125 mg, 99% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=C(C(=O)OC)C=CC=C1 | C24H25NO4
